US07868177B2
A 100 ml round bottom flask was charged with 4-methyl-1-phenyl-4,5-dihydro-1H-pyrazol-3-ol (1.00 g, 5.68 mmol), 4-methoxybenzenamine (2.27 g, 18.44 mmol), and p-toluenesulfonic acid monohydrate (0.59 g, 3.12 mmol). The reaction mixture was stirred at 140° C. under a nitrogen atmosphere for 16 h. The reaction was cooled and dissolved in 1% NaOH solution and ether. The organic layer was separated, washed with 1% HCl solution and water, then dried over Na2SO4, filtered, and concentrated to afford N-(4-methoxyphenyl)-4-methyl-1-phenyl-4,5-dihydro-1-H-pyrazol-3-amine as a brown solid. MS m/z=282.2 [M+H]+. Calc'd for C17H19N3O: 281.35.

reactant | 4-methyl-1-phenyl-4,5-dihydro-1H-pyrazol-3-ol | 5.68 mmol, 1.00 g | CC1C(=NN(C1)C1=CC=CC=C1)O | C10H12N2O
reactant | 4-methoxybenzenamine | 18.44 mmol, 2.27 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | p-toluenesulfonic acid monohydrate | 3.12 mmol, 0.59 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | NaOH | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
product | N-(4-methoxyphenyl)-4-methyl-1-phenyl-4,5-dihydro-1-H-pyrazol-3-amine | COC1=CC=C(C=C1)NC1=NN(CC1C)C1=CC=CC=C1 | C17H19N3O
